US05804585
E. N-(4-chloro-3-methyl-5-isoxazolyl)-2-[2-(2-hydroxyethyl)-4,5-(methylenedioxy)benzyl]thieno[2,3-b]pyridine-3-sulfonamide
The title compound was prepared by the method of Example 4(D) using N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-{2-[2-(acetoxy)ethyl]-4,5-(methylenedioxy)benzyl}thieno[2,3-b]pyridine-3-sulfonamide (83 mg, 0.13 mmoles), methanol (3 ml) and 4N HCl (1 ml). Recrystallization from CH2Cl2 /hexanes provided 55 mg (84%) of the title compound as a white solid, m.p. 104°-106° C.

reactant | N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-{2-[2-(acetoxy)ethyl]-4,5-(methylenedioxy)benzyl}thieno[2,3-b]pyridine-3-sulfonamide | 0.13 mmoles, 83 mg | ClC=1C(=NOC1N(S(=O)(=O)C1=C(SC2=NC=CC=C21)CC2=C(C=C1C(=C2)OCO1)CCOC(C)=O)COCCOC)C | C27H28ClN3O9S2
reactant | HCl | 4N, 1 ml | Cl | ClH
solvent | methanol | 3 ml | CO | CH4O
product | N-(4-chloro-3-methyl-5-isoxazolyl)-2-[2-(2-hydroxyethyl)-4,5-(methylenedioxy)benzyl]thieno[2,3-b]pyridine-3-sulfonamide | 55 mg, 84% | ClC=1C(=NOC1NS(=O)(=O)C1=C(SC2=NC=CC=C21)CC2=C(C=C1C(=C2)OCO1)CCO)C | C21H18ClN3O6S2
